US07589076B2
4-(fluoro)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
4-(fluoro)phenyl chloroformate (5.00 g, 28.6 mmol) was added to a solution of tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate (4.90 g, 21.9 mmol) according to general procedure 1. Yield=5.54 g, 99%. m/z MH+=262.03. HPLC rt=10.6 min.

reactant | 4-(fluoro)phenyl chloroformate | 28.6 mmol, 5.00 g | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
reactant | tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 21.9 mmol, 4.90 g | C(C#C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO2
product | 4-(fluoro)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)F | C15H16FNO2
